US07648987B2
1-Bromo-3-tert-butylsulfanyl-imidazo[1,5-a]pyrazin-8-ylamine
A bohdan block vessel was charged with 2-methyl-2-propanethiol (20 uL, 0.0002 mol) in DMF (2 mL) and the reaction mixture was degassed 3×. Sodium hydride (0.01 g, 0.0004 mol) was then added and the reaction mixture was stirred at rt for 10 min. 1,3-Dibromo-imidazo[1,5-a]pyrazin-8-ylamine (30 mg, 0.0001 mol) was added to the reaction mixture and the reaction mixture was heated at 70° C. overnight. The reaction mixture turned red in color as the reaction progressed. The reaction mixture was concentrated and purified by prep TLC using a mixture of 7 N5% NH3 in MeOH/DCM to afford the title compound as a white solid. 1H NMR (400 MHz, CD3OD-d4): δ=1.37 (s, 9H), 7.13 (d, J=5.05 Hz, 1H), 7.84 (d, J=5.05 Hz, 1H). MS(ES+): m/z 303.02 (100)[MH+]. HPLC: tR=2.30 min (Open Lynx polar—5 min).

reactant | 2-methyl-2-propanethiol | 0.0002 mol, 20 uL | CC(C)(C)S | C4H10S
reactant | Sodium hydride | 0.0004 mol, 0.01 g | [H-].[Na+]
reactant | 1,3-Dibromo-imidazo[1,5-a]pyrazin-8-ylamine | 0.0001 mol, 30 mg | BrC=1N=C(N2C1C(=NC=C2)N)Br | C6H4Br2N4
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 1-Bromo-3-tert-butylsulfanyl-imidazo[1,5-a]pyrazin-8-ylamine | BrC=1N=C(N2C1C(=NC=C2)N)SC(C)(C)C | C10H13BrN4S
